US06727249B2
(1S,2S,5S)-2-{[3,5-Bis(trifluoromethyl)phenyl]methoxy}-1-phenyl-8-(prop-2-enyl)-8-azabicyclo[3.2.1]octane
Sodium hydride (60% in oil, 67 mg, 1.67 mmol) was washed twice with THF and treated with a solution 1S,2S,5S)-1-phenyl-8-(prop-2-enyl)-8-azabicyclo[3.2.1]octan-2-ol (Description 57; 116 mg, 0.47 mmol), 3,5-bis(trifluoromethyl)benzyl bromide (430 mg, 1.4 mmol), 18-crown-6 (33 mg, 1.25 mmol) in THF (2 ml). The reaction mixture was stirred at room temperature overnight, quenched with saturated aqueous NH4Cl and extracted into diethyl ether. The combined organic extracts were washed with water, dried (Na2SO4) and concentrated. The residue was purified by chromatography on silica gel (iso-hexane:diethyl ether) to give the title compound.

reactant | Sodium hydride | 1.67 mmol, 67 mg | [H-].[Na+]
reactant | 1-phenyl-8-(prop-2-enyl)-8-azabicyclo[3.2.1]octan-2-ol | 0.47 mmol, 116 mg | C1(=CC=CC=C1)C12C(CCC(CC1)N2CC=C)O | C16H21NO
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | 1.4 mmol, 430 mg | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | 18-crown-6 | 1.25 mmol, 33 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (1S,2S,5S)-2-{[3,5-Bis(trifluoromethyl)phenyl]methoxy}-1-phenyl-8-(prop-2-enyl)-8-azabicyclo[3.2.1]octane | FC(C=1C=C(C=C(C1)C(F)(F)F)CO[C@@H]1[C@]2(CC[C@@H](CC1)N2CC=C)C2=CC=CC=C2)(F)F | C25H25F6NO
